US09029538B2
3-(4-Fluoro-phenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenylamine and 3-(4-fluorophenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp=180-182° C.; LCMS m/z=599 (M+1); 1H NMR (DMSO-d6) δ: 10.89 (s, 1H), 8.65 (s, 1H), 8.41 (d, 1H, J=5 Hz), 7.60 (s, 1H), 7.58 (s, 2H), 7.45-7.33 (m, 5H), 6.19 (d, 1H, J=7 Hz), 4.18 (p, 1H, J=7 Hz), 3.95 (d, 6H, J=6 Hz), 2.05 (s, 6H), 1.45 (d, 6H, J=7 Hz).

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1C)N)C | C19H20N2O3
reactant | 3-(4-fluorophenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | FC1=CC=C(C=C1)N1C(N(C=C(C1=O)C(=O)O)C(C)C)=O | C14H13FN2O4
product | 3-(4-Fluoro-phenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1C)NC(=O)C=1C(N(C(N(C1)C(C)C)=O)C1=CC=C(C=C1)F)=O)C | C33H31FN4O6
